US07132425B2
A solution of 2(R)-(3-chloro-4-methanesulfonyl-phenyl)-3-cyclopentyl-N-(5-hydroxymethyl-pyrazin-2-yl)-propionamide (457.1 mg, 1.04 mmol) in tetrahydrofuran (10 mL) was treated with triphenylphosphine (573.5 mg, 2.19 mmol) and carbon tetrabromide (726.2 mg, 2.19 mmol). The reaction solution was stirred at 25° C. for 6 h and then was concentrated in vacuo. Biotage chromatography (FLASH 40L, Silica, 1/2 ethyl acetate/hexanes) afforded N-(5-bromomethyl-pyrazin-2-yl)-2(R)-(3-chloro-4-methanesulfonyl-phenyl)-3-cyclopentyl-propionamide (337.2 mg, 65%) as a purple foam: mp 98–103° C. (foam to gel); (ES)+-HRMS m/e calcd for C20H23BrClN3O3S (M+H)+ 500.0405, found 500.0410.

reactant | 2(R)-(3-chloro-4-methanesulfonyl-phenyl)-3-cyclopentyl-N-(5-hydroxymethyl-pyrazin-2-yl)-propionamide | 1.04 mmol, 457.1 mg | ClC=1C=C(C=CC1S(=O)(=O)C)[C@H](C(=O)NC1=NC=C(N=C1)CO)CC1CCCC1 | C20H24ClN3O4S
reactant | triphenylphosphine | 2.19 mmol, 573.5 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrabromide | 2.19 mmol, 726.2 mg | C(Br)(Br)(Br)Br | CBr4
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | N-(5-bromomethyl-pyrazin-2-yl)-2(R)-(3-chloro-4-methanesulfonyl-phenyl)-3-cyclopentyl-propionamide | 337.2 mg, 65% | BrCC=1N=CC(=NC1)NC([C@H](CC1CCCC1)C1=CC(=C(C=C1)S(=O)(=O)C)Cl)=O | C20H23BrClN3O3S
